US07888362B2
Triethylamine (0.25 ml, 1.8 mmol) and isobutyl chloroformate (0.19 ml, 1.4 mmol) were added to a solution (10 ml) of 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]quinolin-2-carboxylic acid (0.53 g, 1.2 mmol) in acetonitrile with cooling in an ice-bath, followed by stirring at 0° C. for 3 hours. 28% Aqueous ammonia (0.15 ml) was added thereto and the reaction mixture was stirred at room temperature for 5 minutes. Ethyl acetate was further added thereto, then the reaction mixture was washed with water and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=3:1), and concentrated under reduced pressure. The residue (0.2 g) was dissolved and recrystallized from the mixed solvent of ethyl acetate and isopropyl ether to obtain 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-quinolin-2-carboxamide (79 mg, yield: 16%) as white powder.

reactant | Triethylamine | 1.8 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.4 mmol, 0.19 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]quinolin-2-carboxylic acid | 1.2 mmol, 10 ml, 0.53 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NC1=CC=CC=C21)C(=O)O | C25H25N3O3S
reactant | ammonia | 0.15 ml | N | H3N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-quinolin-2-carboxamide | 79 mg, yield: 16% | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NC1=CC=CC=C21)C(=O)N | C25H26N4O2S
